US07348310B2
Synthesis of coumarin-3-carbonylamino-acetic acid (8G9C1)
A solution of coumarin-3-carbonylamino-acetic acid methyl ester (312 mg, 1.19 mmol), in THF (12 ml) under Ar atmosphere, at 0° C. (ice bath), a solution of LiOH in H2O (0.2 M) was added dropwise. The reaction mixture was stirred vigorously at room temperature until total conversion was observed by TLC (2 hours). The solution was partially concentrated and Et2O was added (10 ml). The organic layer was washed with NaHCO3 (10 ml, sat) and the combined aquous layers were acidified with 10% KHSO4 (pH=3-4) and extracted with ether (3×20 ml). The organic layer was concentrated at reduced pressure to afford 8G9C1 (280 mg, 95%) as a white solid.

reactant | coumarin-3-carbonylamino-acetic acid methyl ester | 1.19 mmol, 312 mg | COC(CNC(=O)C=1C(OC2=CC=CC=C2C1)=O)=O | C13H11NO5
reactant | LiOH | [Li+].[OH-]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | H2O | 0.2 M | O | H2O
product | coumarin-3-carbonylamino-acetic acid | O1C(=O)C(=CC2=CC=CC=C12)C(=O)NCC(=O)O | C12H9NO5
